US08686002B2
2.1 2-Amino-N-(2-methoxybenzyl)-4-nitrobenzamide
A mixture of 9.3 g 7-nitro-1H-benzo[d][1.3]oxazine-2,4-dione (45 mmol) and 12.3 g 2-methoxybenzylamine (90 mmol) in 200 mL toluene was stirred for 30 minutes at reflux, then mixed with methylene chloride and washed repeated with water. The organic phase was dried, concentrated and the solid residue was dried and reacted further without further purification.

reactant | 7-nitro-1H-benzo[d][1.3]oxazine-2,4-dione | 45 mmol, 9.3 g | [N+](=O)([O-])C=1C=CC2=C(NC(OC2=O)=O)C1 | C8H4N2O5
reactant | 2-methoxybenzylamine | 90 mmol, 12.3 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-N-(2-methoxybenzyl)-4-nitrobenzamide | NC1=C(C(=O)NCC2=C(C=CC=C2)OC)C=CC(=C1)[N+](=O)[O-] | C15H15N3O4
